US06680317B2
Preparation of N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-methyl-3-fluorophenyl)cyanoguanidine
Following the general procedure for carbodiimide formation outlined in example 12, N-(2-methyl-3-fluorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]thiourea (330 mg, 0.62 mmol), methanesulfonyl chloride (0.12 mL, 1.38 mmol) and triethylamine (0.2 mL, 1.04 mmol) were reacted to form the desired product (320 mg, crude). 1H NMR (CDCl3) δ 0.38 (s, 6H), 1.05 (s, 9H), 2.28 (s, 3H), 2.85 (s, 6H), 6.89 (t, 1H), 6.93 (d, 1H), 7.05 (d, 1H), 7.13 (m, 1H), 7.19 (d, 1H).

reactant | carbodiimide | N=C=N | CH2N2
reactant | N-(2-methyl-3-fluorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]thiourea | 0.62 mmol, 330 mg | CC1=C(C=CC=C1F)NC(=S)NC1=C(C(=C(C=C1)Cl)S(=O)(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C22H31ClFN3O3S2Si
reactant | methanesulfonyl chloride | 1.38 mmol, 0.12 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.04 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
product | N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-methyl-3-fluorophenyl)cyanoguanidine | 320 mg | ClC1=C(C(=C(C=C1)N(C(=N)NC1=C(C(=CC=C1)F)C)C#N)O)S(=O)(=O)N(C)C | C17H17ClFN5O3S
